US07105671B2
A solution of 2-(4-methanesulfonyl-phenyl)-3-[2-(tetrahydropyran-2-yloxy)-cyclopentyl]-N-thiazol-2-yl-propionamide (350.8 mg, 0.73 mmol) in ethanol (7.3 mL) was treated with pyridinium p-toluenesulfonate (18.4 mg, 0.073 mmol). The resulting reaction mixture was heated at 60° C. for 4 h. The reaction mixture was allowed to cool to 25° C. and then concentrated in vacuo. The resulting yellow residue was diluted with ethyl acetate (100 mL) and then washed with a saturated aqueous sodium chloride solution (1×100 mL). The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 70–230 mesh, 1/3 hexanes/ethyl acetate) afforded the 3-(2-hydroxy-cyclopentyl)-2-(4-methanesulfonyl-phenyl)-N-thiazol-2-yl-propionamide (77.0 mg, 27%) as a white solid: mp 205–206° C.; EI-HRMS m/e calcd for C18H22N2O4S2 (M+) 394.1021, foound 394.1018.

reactant | 2-(4-methanesulfonyl-phenyl)-3-[2-(tetrahydropyran-2-yloxy)-cyclopentyl]-N-thiazol-2-yl-propionamide | 0.73 mmol, 350.8 mg | CS(=O)(=O)C1=CC=C(C=C1)C(C(=O)NC=1SC=CN1)CC1C(CCC1)OC1OCCCC1 | C23H30N2O5S2
reactant | pyridinium p-toluenesulfonate | 0.073 mmol, 18.4 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | ethanol | 7.3 mL | C(C)O | C2H6O
product | 3-(2-hydroxy-cyclopentyl)-2-(4-methanesulfonyl-phenyl)-N-thiazol-2-yl-propionamide | 77.0 mg, 27% | OC1C(CCC1)CC(C(=O)NC=1SC=CN1)C1=CC=C(C=C1)S(=O)(=O)C | C18H22N2O4S2
